US04663344
Step A: Preparation of 2-(2'-carboxy-4'-chlorophenylthio)-hexanoic acid
A mixture of 5-chlorothiosalicylic acid [prepared by the process set forth in L. Katz et al., J. Org. Chem., 18 (1953) 1380] (2.0 g, 9.8 mmol) and 1N aqueous sodium hydroxide (100 ml) was heated at reflux temperature for 1 hour under a nitrogen atmosphere. 2-Bromohexanoic acid (1.9 g, 9.8 mmol) was then added, and refluxing was continued for an additional hour. The mixture was cooled in an ice bath and acidified with concentrated hydrochloric acid. The acidic mixture was extracted with diethyl ether, and the combined organic layers were washed with water, saturated aqueous sodium chloride solution, dried (sodium sulfate), and evaporated. The product was obtained as a light yellow solid (2.4 g) that was used without further purification in the subsequent step below.

reactant | 5-chlorothiosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)S | C7H5ClO2S
reactant | 2-Bromohexanoic acid | 9.8 mmol, 1.9 g | BrC(C(=O)O)CCCC | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | 2-(2'-carboxy-4'-chlorophenylthio)-hexanoic acid | 2.4 g | C(=O)(O)C1=C(C=CC(=C1)Cl)SC(C(=O)O)CCCC | C13H15ClO4S
